US09062032B2
By using 5.34 g of 2-{[3-(chloromethyl)benzoyl]amino}-N-[4-(diethylamino)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide and 13.1 g of 1-[4-(cyclopropylamino)piperidin-1-yl]ethanone as starting materials, a reaction was performed under the conditions similar to Preparation Example 29, thereby obtaining 5.37 g of 2-[(3-{[(1-acetylpiperidin-4-yl)(cyclopropyl)amino]methyl}benzoyl)amino]-N-[4-(diethylamino)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide.

reactant | 2-{[3-(chloromethyl)benzoyl]amino}-N-[4-(diethylamino)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 5.34 g | ClCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)N(CC)CC)CCCC3)C=CC1 | C27H30ClN3O2S
reactant | 1-[4-(cyclopropylamino)piperidin-1-yl]ethanone | 13.1 g | C1(CC1)NC1CCN(CC1)C(C)=O | C10H18N2O
product | 2-[(3-{[(1-acetylpiperidin-4-yl)(cyclopropyl)amino]methyl}benzoyl)amino]-N-[4-(diethylamino)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 5.37 g | C(C)(=O)N1CCC(CC1)N(C1CC1)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)N(CC)CC)CCCC3)C=CC1 | C37H47N5O3S
